US07365095B2
Treatment of ((2R)-8-(2-chlorophenyl)-7-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate (0.7 g, 1.57 mmol) in ethanol (40 mL) and ethyl acetate (10 mL) with platinum (IV) oxide (84% Pt, 0.21 g) according to the procedure described for Example 69, Step 8 provided 0.7 g (100%) of ((2R)-8-(2-chlorophenyl)-7-fluorochroman-2-yl)methyl 4-methylbenzenesulfonate as a pale yellow oil.

reactant | ((2R)-8-(2-chlorophenyl)-7-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 1.57 mmol, 0.7 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C(=CC=C2C=C1)F)C1=C(C=CC=C1)Cl | C23H18ClFO4S
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum (IV) oxide | 0.21 g | [Pt](=O)=O
product | ((2R)-8-(2-chlorophenyl)-7-fluorochroman-2-yl)methyl 4-methylbenzenesulfonate | 0.7 g, 100% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C(=CC=C2CC1)F)C1=C(C=CC=C1)Cl | C23H20ClFO4S
